US07217697B2
3-(β-D-Glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole
To a solution of 4-(2-benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole (200 mg) in methanol (5 mL) was added 10% palladium-carbon powder (40 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the firtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=6/1) to give the title compound (146 mg).

reactant | 4-(2-benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 200 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(=NNC2C(C)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=CC=C1 | C26H32N2O7
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 3-(β-D-Glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole | 146 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=CC=C1)O)C(C)C | C19H26N2O7
